US09403807B2
Step A: 4-tert-butyl 1-methyl 2-(4-(tert-butoxycarbonylamino)-1H-indol-1-yl)-2-(4-chlorophenyl)succinate
A solution of methyl 2-(4-(tert-butoxycarbonylamino)-1H-indazol-1-yl)-2-(4-chlorophenyl)acetate (2 g, 4.83 mmol), as described in Example 2 Step B, and tert-butyl 2-bromoacetate (1.4 g, 7.25 mmol) in THF (10 mL) was added to NaH (290 mg, 7.25 mmol, 60% in oil) dropwise at 0° C. and stirred for 30 min. The mixture was quenched with saturated NH4Cl solution, and extracted with ethyl acetate. The organic layer was washed with brine (20 mL), dried over sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography (PE:EA=3:1) to afford the title compound. LC/MS m/z=529.2[M+H]+.

reactant | methyl 2-(4-(tert-butoxycarbonylamino)-1H-indazol-1-yl)-2-(4-chlorophenyl)acetate | 4.83 mmol, 2 g | C(C)(C)(C)OC(=O)NC1=C2C=NN(C2=CC=C1)C(C(=O)OC)C1=CC=C(C=C1)Cl | C21H22ClN3O4
reactant | tert-butyl 2-bromoacetate | 7.25 mmol, 1.4 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | NaH | 7.25 mmol, 290 mg | [H-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-tert-butyl 1-methyl 2-(4-(tert-butoxycarbonylamino)-1H-indol-1-yl)-2-(4-chlorophenyl)succinate | C(C)(C)(C)OC(=O)NC1=C2C=CN(C2=CC=C1)C(C(=O)OC)(CC(=O)OC(C)(C)C)C1=CC=C(C=C1)Cl | C28H33ClN2O6
